US06949648B2
4-Chloro-3,8-dimethyl-1-(6-ethoxy-2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline
Following the procedures described in Reference Example 1-10 and Example 1-34, the title compound was prepared from 8-methyl-2-(2-oxopropyl)-4H-3,1-benzoxazin-4-one and 6-ethoxy-2-hydrazinopyridine which was separately prepared from 2-chloro-6-ethoxypyridine following the method described in Reference Example 1-9 (62% yield).

reactant | 8-methyl-2-(2-oxopropyl)-4H-3,1-benzoxazin-4-one | CC1=CC=CC=2C(OC(=NC21)CC(C)=O)=O | C12H11NO3
reactant | 6-ethoxy-2-hydrazinopyridine | C(C)OC1=CC=CC(=N1)NN | C7H11N3O
reactant | 2-chloro-6-ethoxypyridine | ClC1=NC(=CC=C1)OCC | C7H8ClNO
product | 4-Chloro-3,8-dimethyl-1-(6-ethoxy-2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | ClC1=C2C(=NC3=C(C=CC=C13)C)N(N=C2C)C2=NC(=CC=C2)OCC | C19H17ClN4O
